US05891899
2-(4-Cyanobenzoyl)-2-(9H-xanthen-9-yl)acetate (8.1 g, 20.4 mmol) was dissolved in dimethylsulfoxide (100 ml),water (0.74 ml) was added and the resulting solution heated at 190° C., under N2 for 45 min. The cooled yellow solution was diluted with water and then extracted with ethyl acetate, washing with water then drying over magnesium sulphate, filtration and evaporation in vacuo gave 4-[2-(4H-benzopyran-4-yl)acetyl]benzonitrile as a yellow solid, m.p. 111° C.

reactant | 2-(4-Cyanobenzoyl)-2-(9H-xanthen-9-yl)acetate | 20.4 mmol, 8.1 g | C(#N)C1=CC=C(C(=O)C(C(=O)[O-])C2C3=CC=CC=C3OC=3C=CC=CC23)C=C1
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | water | 0.74 ml | O | H2O
product | 4-[2-(4H-benzopyran-4-yl)acetyl]benzonitrile | O1C=CC(C2=C1C=CC=C2)CC(=O)C2=CC=C(C#N)C=C2 | C18H13NO2
